US09382188B2
E) 3-cyclopropyl-3-(3-(((2-(2,2-dimethylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)sulfanyl)methyl)phenyl)propanoic acid
To a solution of ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)thio)methyl)phenyl)propanoate (136 mg) in ethanol (2.5 mL) was added 2N aqueous sodium hydroxide solution (634 μL) at room temperature, and the mixture was stirred at 50° C. for 2 hr. The reaction mixture was cooled to 0° C., neutralized with 1N hydrochloric acid, and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure to give the title compound (56 mg) as a white amorphous solid.

reactant | ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)thio)methyl)phenyl)propanoate | 136 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CSC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C33H39FO3S
reactant | sodium hydroxide | 2N, 634 μL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
product | 3-cyclopropyl-3-(3-(((2-(2,2-dimethylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)sulfanyl)methyl)phenyl)propanoic acid | 56 mg | C1(CC1)C(CC(=O)O)C1=CC(=CC=C1)CSC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C31H35FO3S
